US06525042B1
(2RS)-2-(tert-Butyldimethylsilyloxymethyl)-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene
In N,N-dimethylformamide (5 ml), (2RS)-2-hydroxymethyl-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene (1.71 g) was dissolved, followed by the addition of imidazole (0.81 g) and tert-butyldimethylsilyl chloride (1.81 g) under ice cooling. The resulting mixture was stirred at room temperature for 14 hours. After the addition of methanol, the mixture was concentrated under reduced pressure. The concentrate was diluted with ethyl acetate, washed with water and then dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (hexane:ethyl acetate=50:1), whereby a yellow solid (2.20 g, 85%) was obtained.

reactant | (2RS)-2-hydroxymethyl-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | 1.71 g | OCC1CC2=CC=C(C=C2CC1)C(=O)OC | C13H16O3
reactant | imidazole | 0.81 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 1.81 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2RS)-2-(tert-Butyldimethylsilyloxymethyl)-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | [Si](C)(C)(C(C)(C)C)OCC1CC2=CC=C(C=C2CC1)C(=O)OC | C19H30O3Si
